US08258141B2
J4: (1S,2R,3S,5R)-3-(Di-Boc-amino)-5-(2,6-dichloro-purin-9-yl)-cyclopentane-1,2-diol
The title compound is prepared from di-Boc-[(1S,4R)-4-(2,6-dichloro-purin-9-yl)-cyclopent-2-enyl]-amine using a procedure analogous to that use to prepare (1R,2S,3R,5S)-3-(6-{[bis-(4-methoxy-phenyl)-methyl]-amino}-2-chloro-purin-9-yl)-5-(di-Boc-amino)-cyclopentane-1,2-diol (Intermediate in the preparation of Intermediate ZA). 1H nmr (CDCl3, 400 MHz); 8.35 (s, 1H), 4.80 (m, 1H), 4.70 (m, 1H), 4.50 (m, 1H), 3.85 (m, 1H), 3.75 (m, 1H), 3.10 (m, 1H), 2.75 (m, 1H), 2.55 (m, 1H), 1.55 (s, 18H), MS (ES+) m/e 504 (MH+).

reactant | di-Boc-[(1S,4R)-4-(2,6-dichloro-purin-9-yl)-cyclopent-2-enyl]-amine | C(=O)(OC(C)(C)C)N([C@@H]1C=C[C@@H](C1)N1C2=NC(=NC(=C2N=C1)Cl)Cl)C(=O)OC(C)(C)C | C20H25Cl2N5O4
reactant | (1R,2S,3R,5S)-3-(6-{[bis-(4-methoxy-phenyl)-methyl]-amino}-2-chloro-purin-9-yl)-5-(di-Boc-amino)-cyclopentane-1,2-diol | COC1=CC=C(C=C1)C(C1=CC=C(C=C1)OC)NC1=C2N=CN(C2=NC(=N1)Cl)[C@H]1[C@@H]([C@@H]([C@H](C1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)O)O | C35H43ClN6O8
product | (1S,2R,3S,5R)-3-(Di-Boc-amino)-5-(2,6-dichloro-purin-9-yl)-cyclopentane-1,2-diol | C(=O)(OC(C)(C)C)N([C@@H]1[C@H]([C@H]([C@@H](C1)N1C2=NC(=NC(=C2N=C1)Cl)Cl)O)O)C(=O)OC(C)(C)C | C20H27Cl2N5O6
